US06080743
N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methylbenzylamine hydrobromide
200 mg of 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline and 0.016 ml (2.2 equiv.) of N-benzyl-methylamine are dissolved in 10 ml of acetonitrile, and the solution is stirred at reflux for 20 hours. The mixture is concentrated by evaporation, and the residue is dissolved in ethyl acetate and washed in aqueous 5% sodium carbonate solution and brine. The organic phase is dried over magnesium sulfate and the solvent is concentrated by evaporation.

reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 200 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | N-benzyl-methylamine | 0.016 ml, 2.2 equiv. | C(C1=CC=CC=C1)NC | C8H11N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methylbenzylamine hydrobromide | Br.O=C1NC2=CC(=CC(=C2NC1=O)CN(C)CC1=CC=CC=C1)[N+](=O)[O-] | InChI=1S/C17H16N4O4.BrH/c1-20(9-11-5-3-2-4-6-11)10-12-7-13(21(24)25)8-14-15(12)19-17(23)16(22)18-14;/h2-8H,9-10H2,1H3,(H,18,22)(H,19,23);1H
